US04925867
Dichlorodicyanobenzoquinone (125 mg, 550 μmol) was added to a stirred solution of cis-1-benzyloxy-4-ethyl-3-(4-methoxybenzylamino) pyrrolidin-2-one (190 mg, 458 μmol) in dichloromethane (20 ml) and water (1 ml). After 90 min the mixture was evaporated, dissolved in dilute hydrochloric acid, and applied to a column containing DOWEX 50W-X8 (100-200 mesh, 2×2 cm, H+ form). After washing the column with water (100 ml), the product was eluted with dilute aqueous ammonia. Fractions containing the product were evaporated in vacuo, then purified by flash chromatography, eluting with dichloromethane: methanol (95:5 v/v). The resulting oil (62 mg) was hydrogenated on palladium black (30 mg) in ethanol (20 ml) and acetic acid (200 μl) at 50 p.s.i. for 2 h. After filtration and evaporation, the residue was dissolved in water and applied to a column containing DOWEX 50W-X8 (100-200 mesh, 2× 2 cm, H+ form) After washing the column with water (50 ml), the product was eluted with dilute aqueous ammonia. Fractions containing the desired product were freeze dried to give cis-3-amino-1-hydroxy-4-ethylpyrrolidin- 2-one (29.1 mg, 45%) as a white powder. 1H NMR (360 MHZ, D2O) δ3.82 (1 H, d, J=8.0 Hz, CHN), 3.69 (1 H, dd, J=7.3 and 10.0 Hz, NCHAHB), 3.38 (1 H , dd, J=4.8 and 10 0 Hz, NCHAHB), 2.45-2.55 (1 H, m, CHCH2), 1.5-1.6 and 1.3-1.4 (2 H, m, CH2CH3), 0.96 (3 H, t, J=7.3 Hz, CH3), m/z (CI, NH3) 145 (M+ +H).

reactant | Dichlorodicyanobenzoquinone | 550 μmol, 125 mg | ClC1=C(C(C(=C(C1=O)C#N)C#N)=O)Cl | C8Cl2N2O2
reactant | cis-1-benzyloxy-4-ethyl-3-(4-methoxybenzylamino) pyrrolidin-2-one | 458 μmol, 190 mg | C(C1=CC=CC=C1)ON1C([C@H]([C@H](C1)CC)NCC1=CC=C(C=C1)OC)=O | C21H26N2O3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | 1 ml | O | H2O
product | cis-3-amino-1-hydroxy-4-ethylpyrrolidin- 2-one | 29.1 mg, 45% | N[C@@H]1C(N(C[C@@H]1CC)O)=O | C6H12N2O2
